US04221814
The procedure of Example 10 was repeated for reacting 2-(4-propoxycarbonylbenzamido)-4-aminobenzoic acid with propionic anhydride, and the reaction product was treated as in Example 10 except that ethyl acetate was used as a solvent for recrystallization. The product obtained was a 64% yield of 2-(4-propoxycarbonylbenzamido)-4-propionamidobenzoic acid having a melting point in the range of from 199° to 200° C.

reactant | 2-(4-propoxycarbonylbenzamido)-4-aminobenzoic acid | C(CC)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=C1 | C18H18N2O5
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-propoxycarbonylbenzamido)-4-propionamidobenzoic acid | 64% yield | C(CC)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(CC)=O)C=C1 | C21H22N2O6
